US09212168B2
(a) 4-bromo-2-fluoro-3-(trifluoromethoxy)aniline
To a solution of 2-fluoro-3-(trifluoromethoxy)aniline (1.0 g, 5.13 mmol) dissolved in DMF (2 mL) at 0° C. was slowly added a solution of cold N-bromosuccinimide (0.91 g, 5.13 mmol) dissolved in DMF (6 mL) over 5 min. The reaction mixture was stirred at 0° C. for 1 h, extracted with EtOAc (125 mL) and washed with water (3×25 mL). The combined aqueous layers were extracted with EtOAc (75 mL). The combined organic layers were washed with brine (25 mL), dried over sodium sulfate, filtered, and concentrated to produce the title compound as a dark colored liquid (1.27 g, 90% yield). (m/z): [M+H]+ calcd for C7H4BrF4NO 273.94. found 273.8.

reactant | 2-fluoro-3-(trifluoromethoxy)aniline | 5.13 mmol, 1.0 g | FC1=C(N)C=CC=C1OC(F)(F)F | C7H5F4NO
reactant | N-bromosuccinimide | 5.13 mmol, 0.91 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 4-bromo-2-fluoro-3-(trifluoromethoxy)aniline | 1.27 g, 90% yield | BrC1=C(C(=C(N)C=C1)F)OC(F)(F)F | C7H4BrF4NO
